US04435390
A solution of 10.0 g of 11β,17,21-trihydroxy-1,4-pregnadiene-3,20-dione in pyridine is reacted analogously to Example 1(a) with methoxyacetic acid chloride, worked up, and purified, thus isolating 10.3 g of 11β,17-dihydroxy-21-methoxyacetoxy-1,4-pregnadiene-3,20-dione.

reactant | 11β,17,21-trihydroxy-1,4-pregnadiene-3,20-dione | 10.0 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)O)=O)C | C21H28O5
reactant | methoxyacetic acid chloride | COCC(=O)Cl | C3H5ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 11β,17-dihydroxy-21-methoxyacetoxy-1,4-pregnadiene-3,20-dione | 10.3 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@](C(COC(COC)=O)=O)([C@]2(C1)C)O)=O)C | C24H32O7
